US07700623B2
To a methylene chloride (5.5 mL) solution of 0.66 g of tert-butyl=4-[3-(4-cyano-3-fluorophenoxy)propyl]-1-piperidinecarboxylate was dropwise added 1.8 mL of trifluoroacetic acid under cooling with ice over a period of 2 minutes, which was then stirred at room temperature for 6 hours. The solvent was distilled off under reduced pressure, and chloroform and a 1.0 mol/L sodium hydroxide aqueous solution were added to the resultant residue. The organic layer was separated and dried with anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The resultant residue was purified using silica gel column chromatography (eluent; chloroform:methanol=4:1) to provide 0.28 μg of 2-fluoro-4-[3-(4-piperidinyl)propoxy]benzonitrile as pale yellow oily form.

reactant | 4-[3-(4-cyano-3-fluorophenoxy)propyl]-1-piperidinecarboxylate | C(#N)C1=C(C=C(OCCCC2CCN(CC2)C(=O)[O-])C=C1)F
reactant | trifluoroacetic acid | 1.8 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5.5 mL | C(Cl)Cl | CH2Cl2
product | 2-fluoro-4-[3-(4-piperidinyl)propoxy]benzonitrile | 0.28 μg | FC1=C(C#N)C=CC(=C1)OCCCC1CCNCC1 | C15H19FN2O
